Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7][H:8],2.38732049188
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14],-0.7146818117209999
[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[O:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.47466162688
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],4.787898011269999
[H:1][O:2][C:3][C:4]([H:5])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.81556041235
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[O:2],1.50267163945
[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.80182757479
[C:6](=[O:7])[H:8].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],-1.1418936778
[O:1]=[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],3.85803059241
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.03846475286
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.09833533885
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],4.59769946849
[C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])[H:11],-5.36169300473
[H:1][C:2]=[C:3]([H:4])/[C:9](=[C:7](/[C:5]([H:6])=[C:11]([H:12])[H:13])[H:8])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13],0.610956893591
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.267119259459999
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.4361158439600015
[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.4345141740799998
[H:1][O:2]/[C:3]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.850139742300001
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.7452142550999998
[O:1]=[C:2]([H:3])[C:4][O:5][C:6][H:7]>>[H:3].[O:1]=[C:2]=[C:4][O:5][C:6][H:7],2.59141331355
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11],4.678463547880001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[O:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11][O:12]1,2.46458122837
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],4.20187812203
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[C:7]([H:8])#[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],3.54674307258
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:5],2.31741376888
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],5.132010505209999
[H:1][C:2]=[C:3]=[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1],3.7282265566199992
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[O:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.56771120046
